US04508659
Isobutyl cyanoacetate (5.8 g), benzylmethylamine (7 ml), triethyl orthoformate (14 ml) and p-toluenesulphonic acid (5 mg) were heated under reflux for 1 hour. The cooled reaction mixture was triturated with petroleum ether (bp 40°-60° C.) and the solid filtered off. Recrystallisation from ethanol gave isobutyl 3-(benzylmethylamino)-2-cyano-2-propenoate, m.p. 105°-106° C.

reactant | Isobutyl cyanoacetate | 5.8 g | C(#N)CC(=O)OCC(C)C | C7H11NO2
reactant | benzylmethylamine | 7 ml | C(C1=CC=CC=C1)CN | C8H11N
reactant | triethyl orthoformate | 14 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulphonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | isobutyl 3-(benzylmethylamino)-2-cyano-2-propenoate | C(C1=CC=CC=C1)CNC=C(C(=O)OCC(C)C)C#N | C16H20N2O2
